US05177217
(S)-1-Benzyl-3-(p-toluenesulfonyl-amino)pyrrolidine hydrochloride (40.0 g), phenol (12.0 g) and 30% hydrogen bromide in acetic acid (200 mL) were combined and heated in a sealed flask at 105° C. to 125° C. for a period of 55 minutes. The resulting red solution was concentrated under vacuum to remove excess acetic acid and hydrogen bromide and the thick oil dissolved in water (500 mL) and toluene (150 mL). The layers were separated and the aqueous layer extracted with toluene (50 mL) and diethyl ether (30 mL) and treated with 28% ammonium hydroxide (11 mL) to give a pH of 8.5. This solution was extracted with toluene (25 mL) and all of the organic extracts discarded. The remaining aqueous layer was treated with 50% NaOH (145 mL) and extracted with toluene (3×50 mL). The combined toluene extracts were concentrated to an oil (19.2 g) which was distilled under vacuum (bp 104°-106° C. at 2.5 mm Hg) to give (S)-3-amino-1-benzylpyrrolidine, 5, (18.2 g, 94%) as a colorless oil: [α]25 =+11.2°.

reactant | (S)-1-Benzyl-3-(p-toluenesulfonyl-amino)pyrrolidine hydrochloride | 40.0 g | Cl.C(C1=CC=CC=C1)N1C[C@H](CC1)NS(=O)(=O)C1=CC=C(C=C1)C
reactant | phenol | 12.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | (S)-3-amino-1-benzylpyrrolidine | N[C@@H]1CN(CC1)CC1=CC=CC=C1 | C11H16N2
